US05173493
To a solution of 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one (451 mg) in acetic acid (2.5 ml) at 10° C. were added successively aqueous 50% dimethylamine solution (0.17 ml) and aqueous 35% formaldehyde solution (0.16 ml). The mixture was heated at 60° C. for 16 hours. After evaporation of the solvent, the residue was dissolved in water, made basic with aqueous 3N sodium hydroxide solution, and extracted twice with chloroform. The chloroform layer was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (methanol-chloroform) to give 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-10-[(dimethylamino)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one (233 mg) as an oil.

reactant | 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | 451 mg | C(C1=CC=CC=C1)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2)C1=O | C24H23N3O
reactant | dimethylamine | 0.17 ml | CNC | C2H7N
reactant | formaldehyde | 0.16 ml | C=O | CH2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-10-[(dimethylamino)methyl]-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | 233 mg | C(C1=CC=CC=C1)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2CN(C)C)C1=O | C27H30N4O
